US04032635
2,6-Dibromo-4-aminophenol (0.6 g.) was dissolved in acetone (30 ml.) to which pyridine (0.32 ml.) was added. Then the solution was added by drops and with stirring to an acetone solution (10 ml.) containing acetylsalicyloyl chloride which was prepared from acetyl-salicylic acid (0.38 g.). The resulting solution was evaporated to dryness under reduced pressure to give a residue which was dissolved in ethyl acetate. After washing first with water and then with 1 N hydrochloric acid the solution was evaporated under reduced pressure to remove the ethyl acetate. The residue was redissolved in a mixture of methanol and 2 N sodium hydroxide (10 ml. each). Stirring this solution for several hours and acidifying with 2 N hydrochloric acid precipitated the product which was recrystallized from aqueous methanol to give light brown crystals of 3',5'-dibromo-2,4'-dihydroxybenzanilide (0.88 g.). Yield: 78%. The melting point of the compound is 182°-187° C.

reactant | 2,6-Dibromo-4-aminophenol | 0.6 g | BrC1=C(C(=CC(=C1)N)Br)O | C6H5Br2NO
reactant | acetylsalicyloyl chloride | C(C)(=O)OC=1C(C(=O)Cl)=CC=CC1 | C9H7ClO3
reactant | acetyl-salicylic acid | 0.38 g | C(C)(=O)OC=1C(C(=O)O)=CC=CC1 | C9H8O4
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | pyridine | 0.32 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 3',5'-dibromo-2,4'-dihydroxybenzanilide | 0.88 g, Yield: 78% | BrC=1C=C(NC(C2=C(C=CC=C2)O)=O)C=C(C1O)Br | C13H9Br2NO3
